US07772244B2
To a solution of (R)-1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxopropan-2-yl benzoate (14.2 g, 30.3 mmol) in tetrahydrofuran (80 mL) and methanol (80 mL) at 0° C. was added a solution of lithium hydroxide monohydrate (5.09 g, 121 mmol) in water (80 mL). The reaction was stirred at 0° C. for 1 h. The ice bath was removed and stirring continued at room temperature for 2 h. The reaction was concentrated, dissolved in water (5 mL), cooled to 0° C., and treated with 1M hydrochloric acid until mildly acidic. A non-solid ppt formed. The suspension was extracted with ethyl acetate (3×), which were washed with brine, dried over magnesium sulfate, and concentrated to give the crude hydroxy acid as an oil with white solid forming in it (probably residual benzoic acid) which was used without purification. Mass spec.: 349.34 (M−H)−.

reactant | (R)-1-methoxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-oxopropan-2-yl benzoate | 30.3 mmol, 14.2 g | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C25H32N2O5Si
reactant | lithium hydroxide monohydrate | 121 mmol, 5.09 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | methanol | 80 mL | CO | CH4O
solvent | water | 80 mL | O | H2O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
